US07838543B2
Rac-6-(4-Fluoro-phenyl)-N-{2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-nicotinamide
Combine rac-N2-Methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine (0.034 g, 0.131 mmol), 6-(4-fluoro-phenyl)-nicotinic acid (0.043 g, 0.198 mmol), HATU (0.050 g, 0.131 mmol), polystyrene-bound diisopropylamine (0.327 g, loading: 2.0 to 3.5 mmol/g), and CH2Cl2 (10 mL). Shake the mixture overnight at room temperature. Filter the mixture and wash the polystyrene resin with 1:1 CH2Cl2/MeOH. Concentrate the solution in vacuo. Dilute with CH2Cl2, wash with 1.0M NaOH (2×25 mL), dry over Na2SO4, filter, and concentrate in vacuo. Subject the residue to silica gel flash column chromatography (4 g column, eluting with 10% 2N NH3 in MeOH/CH2Cl2) to yield the desired product as an impure mixture. Re-subject the mixture to silica gel flash column chromatography (3×4 g columns, 5% 2N NH3 in MeOH/CH2Cl2) to yield the desired product as a white oil (0.030 g, 51%). mass spectrum (m/e): 460.0 (M+1), 458.0 (M−1). 1H NMR (400 MHz, CDCl3): δ 9.10 (s, 1H), 8.31 (s, 1H), 8.22 (dd, J=8.0, 2.4 Hz, 1H), 8.03-7.97 (m, 2H), 7.72 (d, J=8.4 Hz, 1H), 7.53 (s, 1H), 7.34 (d, J=8.4 Hz, 1H), 7.20-7.11 (m, 3H), 3.58-3.46 (m, 2H), 3.16 (s, 3H), 2.72-2.56 (m, 3H), 2.55-2.48 (m, 1H), 2.38-2.32 (m, 1H), 2.33 (s, 3H), 2.04-1.95 (m, 1H), 1.57-1.48 (m, 1H).

reactant | rac-N2-Methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine | 0.131 mmol, 0.034 g | CN(C=1OC2=C(N1)C=C(C=C2)N)CC2CN(CC2)C | C14H20N4O
reactant | 6-(4-fluoro-phenyl)-nicotinic acid | 0.198 mmol, 0.043 g | FC1=CC=C(C=C1)C1=NC=C(C(=O)O)C=C1 | C12H8FNO2
reactant | HATU | 0.131 mmol, 0.050 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Rac-6-(4-Fluoro-phenyl)-N-{2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-nicotinamide | FC1=CC=C(C=C1)C1=NC=C(C(=O)NC=2C=CC3=C(N=C(O3)N(CC3CN(CC3)C)C)C2)C=C1 | C26H26FN5O2
